US07217723B2
(7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-yl)-carbamic acid t-butyl ester
7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid (18 g), 15.3 mL of triethylamine (15.3 mL) and 30.3 g of diphenylphosphoryl azide (30.3 g) in t-butyl alcohol (360 mL) were heat refluxed for 1 hour. After the organic solvent was removed by evaporation at reduced pressure, purification by NH silica gel column chromatography was carried out. Recrystallization from dichloromethane-hexane was carried out to provide the title compound (19.1 g) as a colorless crystal.

reactant | 7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid | 18 g | O=C1CCCC2=C1SC=C2C(=O)O | C9H8O3S
reactant | triethylamine | 15.3 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 30.3 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | t-butyl alcohol | 360 mL | C(C)(C)(C)O | C4H10O
product | (7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-yl)-carbamic acid t-butyl ester | 19.1 g | C(C)(C)(C)OC(NC=1C2=C(SC1)C(CCC2)=O)=O | C13H17NO3S
